US08008506B2
(R)-N-(5-(2-(benzyl(2-hydroxyethyl)amino)-1-(triethylsilyloxy)ethyl)-2-chlorophenyl)methanesulfonamide
(R)-N-(2-chloro-5-(2-iodo-1-(triethylsilyloxy)ethyl)phenyl)methanesulfonamide (3 g) and 2-(benzylamino)ethanol (6 mL; manufactured by Tokyo Chemical Industry Co., Ltd.) were mixed, and the mixture was stirred overnight at 100° C. The reaction solution was cooled to room temperature, and then toluene and Et2O were added thereto. The mixture was washed three times with water, and the organic layer was dried over magnesium sulfate. Then, the solvent was evaporated under reduced pressure. The residue was purified by column chromatography (“COLUMN-B”; n-hexane:ethyl acetate=84:16→64:36), and thus the title compound (2.1894 g) was obtained.

reactant | (R)-N-(2-chloro-5-(2-iodo-1-(triethylsilyloxy)ethyl)phenyl)methanesulfonamide | 3 g | ClC1=C(C=C(C=C1)[C@H](CI)O[Si](CC)(CC)CC)NS(=O)(=O)C | C15H25ClINO3SSi
reactant | 2-(benzylamino)ethanol | 6 mL | C(C1=CC=CC=C1)NCCO | C9H13NO
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | Et2O | CCOCC | C4H10O
product | (R)-N-(5-(2-(benzyl(2-hydroxyethyl)amino)-1-(triethylsilyloxy)ethyl)-2-chlorophenyl)methanesulfonamide | 2.1894 g | C(C1=CC=CC=C1)N(C[C@H](O[Si](CC)(CC)CC)C=1C=CC(=C(C1)NS(=O)(=O)C)Cl)CCO | C24H37ClN2O4SSi
